US05098930
Using the procedure described in Example 3, 4-(3-benzyloxyphenyl)-4-hydroxy-2,2-dimethyltetrahydropyran (1.14 g) was reacted with methyl iodide (0.25 ml) to give 4-(3-benzyloxyphenyl)-4-methoxy-2,2-dimethyltetrahydropyran (1.06 g, 89%), as an oil.

reactant | 4-(3-benzyloxyphenyl)-4-hydroxy-2,2-dimethyltetrahydropyran | 1.14 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1(CC(OCC1)(C)C)O | C20H24O3
reactant | methyl iodide | 0.25 ml | CI | CH3I
product | 4-(3-benzyloxyphenyl)-4-methoxy-2,2-dimethyltetrahydropyran | 1.06 g, 89% | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1(CC(OCC1)(C)C)OC | C21H26O3
